US04749791
26.3 g (0.12 mol) of 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline dissolved in 3 l of methylene chloride were added to a solution of 4.75 g (0.03 mol) of potassium permanganate and 514 g (2.4 mol) of sodium periodate in 12 l of water, 3.00 g (0.013 mol) of benzyltriethylammonium chloride were added thereto and the mixture was stirred at room temperature overnight. The mixture was filtered over Dicalit and extracted with methylene chloride. Drying with sodium sulphate, distillation of the solvent in vacuo and chromatography (silica gel, ethyl acetate) gave 11-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione as beige crystals of melting point 142°-144°.

reactant | 8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | 0.12 mol, 26.3 g | ClC1=CC2=C(C=3CCCNC3CC2)C=C1 | C13H14ClN
reactant | potassium permanganate | 0.03 mol, 4.75 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium periodate | 2.4 mol, 514 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 12 l | O | H2O
solvent | methylene chloride | 3 l | C(Cl)Cl | CH2Cl2
catalyst | benzyltriethylammonium chloride | 0.013 mol, 3.00 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 11-chloro-1,2,4,5,6,7-hexahydro-4-benzazecine-3,8-dione | ClC1=CC2=C(C(CCCNC(CC2)=O)=O)C=C1 | C13H14ClNO2
